US05276025
Step A: Preparation of N-methyl-N-methoxy-2-chloro-5-sulfamoylthiophene-3-carboxamide
1,1-Carbonyldiimidazole (7.70 g, 0.047 mol) was added portionwise to a solution of 5-chloro-4-carboxythiophene-2-sulfonamide (7.25 g, 0.03 mol) in DMF (60 mL). After two hours, N-methylpiperidine (6.0 mL, 0.05 mol) and N,O-dimethylhydroxylamine hydrochloride (5.2 g, 0.05 mol) were added to the reaction mixture. After an additional four hours at room temperature, the reaction mixture was poured into ice/water saturated with NaHCO3. The crude product was extracted into ethyl acetate, the extract was dried (anhydrous Na2SO4), filtered and evaporated. The crude residue was chromatographed on silica gel and eluted with 59% methanol/methylene chloride to give 3.45 g (40%) of white solid product, mp 223°-225° C.

reactant | 5-chloro-4-carboxythiophene-2-sulfonamide | 0.03 mol, 7.25 g | ClC1=C(C=C(S1)S(=O)(=O)N)C(=O)O | C5H4ClNO4S2
reactant | N-methylpiperidine | 0.05 mol, 6.0 mL | CN1CCCCC1 | C6H13N
reactant | N,O-dimethylhydroxylamine hydrochloride | 0.05 mol, 5.2 g | Cl.CNOC
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DMF | 60 mL | CN(C)C=O | C3H7NO
product | N-methyl-N-methoxy-2-chloro-5-sulfamoylthiophene-3-carboxamide | 3.45 g, 40% | CN(C(=O)C1=C(SC(=C1)S(N)(=O)=O)Cl)OC | C7H9ClN2O4S2
